US06498172B1
3-(3-{[(4-tert-Butyl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester.
The title compound of Step A was prepared following the method described in Step A of Example 1 from 3-{3-[(4-tert-butyl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, prepared in Step A of Example 12s, and thiazole-2-sulfonyl chloride using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 7.93 (d, 1H), 7.56 (d, 1H), 7.23 (d, 2H), 7.14 (m, 1H), 7.04 (m, 3H), 6.98 (m, 2H), 4.47 (s, 2H), 4.41 (s, 2H), 3.67 (s, 3H), 2.84 (t, 2H), 2.54 (t, 2H), 1.27 (s, 9H); MS 487 (M+1).

reactant | 3-{3-[(4-tert-butyl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C(C)(C)C)=O | C22H29NO2
reactant | thiazole-2-sulfonyl chloride | S1C(=NC=C1)S(=O)(=O)Cl | C3H2ClNO2S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(4-tert-Butyl-benzyl)-(thiazole-2-sulfonyl)-amino]-methyl}-phenyl)-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CN(S(=O)(=O)C=1SC=CN1)CC1=CC=C(C=C1)C(C)(C)C)=O | C25H30N2O4S2
